* Load Transient Verification - pre-settled
.title PVDD LDO Load Transient Verify

.param mc_mm_switch = 0
.param MC_MM_SWITCH = 0
.subckt sky130_fd_pr__model__parasitic__res_po r0 r1 sub w=1 l=1
c0 r0 sub {0.1e-15*w*l}
c1 r1 sub {0.1e-15*w*l}
.ends sky130_fd_pr__model__parasitic__res_po
.lib "../sky130.lib.spice" tt

.include ../00_error_amp/design.cir
.include ../01_pass_device/design.cir
.include ../02_feedback_network/design.cir
.include ../03_compensation/design.cir
.include ../04_current_limiter/design.cir
.include ../05_uv_ov_comparators/design.cir
.include ../06_level_shifter/design.cir
.include ../07_zener_clamp/design.cir
.include ../08_mode_control/design.cir
.include ../09_startup/design.cir

* Flat wiring
XM_pass gate bvdd pvdd pass_device
Rss avbg vref_ss 100k
Css vref_ss 0 10n
XEA vref_ss vfb ea_out pvdd 0 ibias bvdd bvdd error_amp
XFB pvdd vfb 0 feedback_network
XCOMP ea_out pvdd 0 compensation
XILIM gate bvdd pvdd 0 ilim_flag current_limiter
XUV pvdd avbg uv_flag svdd 0 uvov_en uv_comparator
XOV pvdd avbg ov_flag svdd 0 uvov_en ov_comparator
XZC pvdd 0 zener_clamp
XMC bvdd pvdd svdd 0 avbg en_ret bypass_en mc_ea_en ref_sel uvov_en ilim_en pass_off mode_control
XSU bvdd pvdd gate 0 avbg startup_done bvdd ea_out startup
XLS_EN en en_bvdd bvdd svdd 0 level_shifter_up
Cload pvdd 0 200e-12
Cout_ext pvdd 0 1u

* Base load: 10mA (500 ohm)
Rload pvdd 0 500

* Step current: 9mA step at 30ms, hold 10ms, release at 40ms
Istep pvdd 0 PWL(0 0 30m 0 30.001m 9m 40m 9m 40.001m 0 50m 0)

* BVDD at 7V, pre-settled
Vbvdd bvdd 0 7
Vavbg avbg 0 1.226
Ibias ibias 0 DC 1u
Vsvdd svdd 0 2.2
Ven en 0 2.2
Ven_ret en_ret 0 0

.option reltol=1e-4 abstol=1e-12 vntol=1e-6
.option method=gear maxord=2 gmin=1e-10
.option itl1=500 itl2=500 itl4=500

* Pre-charge to 10mA regulated state
.ic V(pvdd)=5.0 V(vref_ss)=1.226 V(gate)=5.6 V(ea_out)=5.6

.tran 0.5u 50m uic

* Before step
.meas tran v_before avg V(pvdd) from=29m to=30m

* Undershoot (step applied at 30ms)
.meas tran v_min MIN V(pvdd) from=30m to=35m

* Overshoot (step released at 40ms)
.meas tran v_max MAX V(pvdd) from=40m to=45m

* After recovery
.meas tran v_after avg V(pvdd) from=48m to=50m

.control
run
quit
.endc
.end
